* Copyright (c) 1998-2024 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4098-1 1 2 3 4 5 6
Rcmp N005 MID {Rcm} Noiseless
Rcmn N028 MID {Rcm} Noiseless
Ccmp MID N005 {Ccm}
Ccmn N028 MID {Ccm}
G25 MID N018 N014 MID 1m
R18 N018 MID 1k Noiseless
C22 N018 MID 1f
G34 0 Vcc_Int N043 0 1
G35 0 Vee_Int N045 0 1
R37 Vcc_Int 0 1 Noiseless
R38 Vee_Int 0 1 Noiseless
R39 N041 Vcc_Int 1Meg Noiseless
R40 N041 Vee_Int 1Meg Noiseless
C23 N041 0 1
E1 MID 0 N041 0 1
R41 MID 0 1Meg Noiseless
C24 Vcc_Int 0 1n
C25 Vee_Int 0 1n
R42 N043 3 1µ
R43 N045 4 1µ
G40 0 4_BUF N045 0 1k
G41 0 3_BUF N043 0 1k
R55 4_BUF 0 1m Noiseless
R56 3_BUF 0 1m Noiseless
C30 4_BUF 0 1n
C31 3_BUF 0 1n
Rs N025 5 1m
G49 MID N009 N005 MID 1m
G11 MID Avo1 N018 N028 100µ
C14 Avo1 MID 1e-18
Cdiff N028 N005 {Cdiff}
Rdiff N005 N028 {Rdiff} Noiseless
C48 Clamp MID {Cfp1}
B3 MID Clamp I=Uplim(Dnlim({Avo2/1Meg}* V(Avo1,MID), {Isink}, 0.1m), {Isrc}, 0.1m)
C5 ENgd 0 1p Rpar=1G
S3 N025 N024 EN 0 SDN
S7 MID Avo1 EN 0 1M
S8 MID Clamp EN 0 1M
R4 N009 MID 1k
S1 3 N024 N024 3 ESDO
S2 N024 4 4 N024 ESDO
R1 Vimon MID 1k
C1 Vimon MID 10n
B1 MID Vimon I=1m*I(Rs)
A1 N005 MID MID MID MID MID MID MID OTA G=0 In=150f
A2 N028 MID MID MID MID MID MID MID OTA G=0 In=150f
BIbp N005 MID I={Ib}+ {Ibd}*(Temp-27)
BIos N028 MID I={Ios}+ {Iosd}*(Temp-27)
C4 N030 N029 {C1a_PSRp}
G1 MID N029 3 MID {G1_PSRp}
R5 N029 MID 1 Noiseless
R6 N030 N029 {R1a_PSRp} Noiseless
R7 N030 MID {R2a_PSRp} Noiseless
C11 N032 N031 {C1b_PSRp}
R8 N032 MID {R2b_PSRp} Noiseless
R9 N032 N031 {R1b_PSRp} Noiseless
G2 MID N031 N030 MID 1
R10 N031 MID 1 Noiseless
G3 MID PSRp N032 MID {G2_PSRp}
R11 PSRp MID 1 Noiseless
C12 PSRn N040 {C1a_PSRn}
G4 MID N040 4 MID {G1_PSRn}
R12 N040 MID 1 Noiseless
R13 PSRn N040 {R1a_PSRn} Noiseless
R14 PSRn MID {R2a_PSRn} Noiseless
G5 N013 N014 PSRp PSRn 1m
C15 N009 MID 1f
G6 MID N013 N012 MID 1k
R15 N014 N013 1k Noiseless
R16 N013 MID 1m
C16 N013 MID 1f
G15 N009 N010 Vnoise MID 1m
R24 N010 N009 1k Noiseless
R25 N012 N011 1k Noiseless
G16 N011 N012 N004 MID 1m
C34 N002 N001 {C1a_CMR}
G17 MID N001 N005 MID {G1_CMR}
R26 N001 MID 1 Noiseless
R27 N002 N001 {R1a_CMR} Noiseless
R28 N002 MID {R2a_CMR} Noiseless
R29 N003 N004 {R1b_CMR} Noiseless
R30 N004 MID {R2b_CMR} Noiseless
C35 N004 N003 {C1b_CMR}
R31 N003 MID 1 Noiseless
G20 MID N003 N002 MID 1
Bsrc N043 0 I=Dnlim(I(Rs), 0,1u)
Bsink N045 0 I=Uplim(I(Rs), 0,1u)
D1 6 4 DO
BIpd 6 4 I=If(V(EN)>0.5, {Ipd_on}, {Ipd_off})
A5 6 N045 0 0 0 ENgd 0 0 SCHMITT Vt={ENVt} Vh={ENVh} Trise=5n
A6 Vs 0 0 0 0 0 VminGD 0 SCHMITT Vt={Vsmin-10m} Vh=10m Trise=5n
A7 Vs 0 0 0 0 VmaxGD 0 0 SCHMITT Vt={Vsmax+10m} Vh=10m Trise=5n
A8 VminGD 0 0 ENgd VmaxGD 0 EN 0 AND Trise={2*ENTon} Tfall={2*ENToff}
R36 EN 0 1G Noiseless
R44 VmaxGD 0 1G Noiseless
R45 0 VminGD 1G Noiseless
G24 0 Vs 3 4 1m
R46 Vs 0 1k Noiseless
D2 CMp N018 DO
D3 N018 CMn DO
I1 3_BUF CMp {1k*Vcmmax}
R47 3_BUF CMp 1m
C38 3_BUF CMp 1n
I2 4_BUF CMn {1k*Vcmmin}
R48 4_BUF CMn 1m
C39 4_BUF CMn 1n
G26 MID N033 ORp MID 1k
G27 MID N035 ORn MID 1k
DGP N033 N034 DG
R49 N033 MID 1m
R50 N035 MID 1m
I3 N039 ORn {1m*ORn}
R51 ORn N039 1k
I4 N038 ORp {1m*ORp}
R52 ORp N038 1k
C40 ORp N038 1p
C41 ORn N039 1p
DGN N034 N035 DG
Rgr Clamp N034 1m
G28 MID N038 VO MID 1k
R53 N038 MID 1m
G29 MID N039 VO MID 1k
R54 N039 MID 1m
C44 Vs 0 1n
BIqt N043 N045 I=If(V(EN)>0.5, {Iq}, {Iqsd})
R32 N005 1 {Rser}
R33 N028 2 {Rser}
C36 N005 MID {Cin}
C37 N028 MID {Cin}
DOP Vsatp VO DO
DON VO Vsatn DO
C18 VO Vsatp 1f
C20 VO Vsatn 1f
G13 MID Vsatp Satp MID 1k
R20 Vsatp MID 1m
G14 MID Vsatn Satn MID 1k
R21 Vsatn MID 1m
C28 Vsatp MID 1n
C47 Vsatn MID 1n
Cx N024 MID 2f
G31 0 3_SAT 3_BUF 0 1
R2 3_SAT 0 997m Noiseless
C2 3_SAT 0 1n
G32 0 4_SAT 4_BUF 0 1
R3 4_SAT 0 997m Noiseless
C3 4_SAT 0 1n
R22 Satp 3_SAT 1k
C32 Satp 3_SAT 1n
R23 Satn 4_SAT 1k
C33 Satn 4_SAT 1n
B2 Satp 3_SAT I=1m*Uplim(Dnlim(Mp*(V(Vimon,MID))+OSp, OSp,0.1m),1.5, 1m)
B4 4_SAT Satn I=1m*Dnlim(Mn*(-V(Vimon,MID))+ OSn,OSn,0.1m)
C42 N034 N033 10f
C43 N035 N034 10f
A10 MID MID MID MID MID MID Vnoise MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=16.95n*(1+freq/12e5) Enk=3.3
R58 Vnoise MID 100k Noiseless
C52 Vnoise MID 1f
Ro1 N023 N022 90
Lo VO N023 80µ
Co VO N027 2.5n
Ro2 VO N023 300
Ro3 N027 N023 20
G18 MID N022 N007 MID 1
S5 MID N022 EN 0 1O
G7 MID N019 Clamp MID 1µ
C6 N019 MID {Cfp2}
G8 MID N020 N019 MID 1µ
C7 N020 MID {Cfp3}
R34 N015 N016 {R1_Aol} Noiseless
R35 N016 MID {R2_Aol} Noiseless
C8 N016 N015 {C1_Aol}
G9 MID N008 N016 MID {G_Aol}
G10 MID N015 N020 MID 1
R57 N007 N006 {R2x_Avo} Noiseless
R59 N006 N008 {R1x_Avo} Noiseless
Rx1 N021 N008 {Rx_Avo} Noiseless
Cx1 N021 MID {Cx_Avo}
G12 MID N007 N021 N006 1Meg
S4 MID N008 EN 0 1O
S6 MID N015 EN 0 1O
S9 N007 MID EN 0 1O
S10 MID N019 EN 0 1M
S11 MID N020 EN 0 1M
R17 N011 N010 1k Noiseless
BVos N010 N011 I=1m*({Vos}+ {Vosd}*(Temp-27))
S12 N024 VO 0 0 ISC
C9 N024 VO 1p
.param Ccm=3p Rcm=1G
.param Cdiff=1p Rdiff=10Meg
.param Rser=1m Cin=1f
.param Ib=0.35n Ibd=19.5p
+Ios=0.35n Iosd=12.0p
+Iscp=30m Iscn=-50m
+Vcmmin=-0.1 Vcmmax=40
+Vsmin=3 Vsmax=50
+ENVt=1 ENVh=0.5
+ENTon=30u ENToff=2.5u
+Iq=185u Iqsd=17u
+Ipd_on=0.3u Ipd_off=0.6u
+Vos=13.3u Vosd=0.1u
.model DG D(Vfwd={-2*ORn} Vrev=0 Revepsilon=0.5 Ron=1m Noiseless)
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6
+Ilimit=4m Lser=1n Noiseless)
.model ZO SW(Ron=10m Roff=100Meg Vt=500m Vh=-100m Noiseless)
.model 1K SW(Ron=1k Roff=1u Vt=500m Vh=-100m Noiseless)
.model 1M SW(Ron=1Meg Roff=1u Vt=500m Vh=-100m Noiseless)
.model 1O SW(Ron=1 Roff=1u Vt=500m Vh=-100m Noiseless)
.model SDN SW(Ron=1m Roff=10G Vt=0.5 Vh=-0.1 Noiseless)
.model SD SW(Ron=10G Roff=1m Vt=0.5 Vh=-0.1 Noiseless)
.model ISC SW(Ron=1m Roff=1Meg Vt=-1 Vh=-0.1 Ilimit={Iscp} Noiseless level=2)
.param Avo=149.2
.param SRp=0.1 SRn={-SRp}
.param fp1=37m fp2=100k fp3=5.5Meg
.param Avo2_dB = {Avo-40+1}
+Avo2 = {pwr(10, (Avo2_dB)/20)}
+Cfp1={1 / (2 * pi * fp1 * 1Meg)}
+Cfp2={1 / (2 * pi * fp2 * 1Meg)}
+Cfp3={1 / (2 * pi * fp3 * 1Meg)}
+Isrc = {Cfp1 * SRp * 1Meg}
+Isink = {Cfp1 * SRn * 1Meg}
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=132.5
.param R1a_CMR=100Meg
.param fz1_CMR=35m
.param fp1_CMR=8k
.param R1b_CMR=1Meg
.param fz2_CMR=150
.param fp2_CMR=200
.param C1b_CMR={1 / (2 * pi * R1b_CMR * fz2_CMR)}
.param R2b_CMR = {R1b_CMR/ ((2 * pi * fp2_CMR * C1b_CMR
+* R1b_CMR) - 1)}
.param actual2_CMR = {R2b_CMR / (R1b_CMR + R2b_CMR)}
.param G2_CMR= {1/actual2_CMR}
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param Rej_dc_PSRp=145
.param R1a_PSRp=100k
.param fz1_PSRp=23
.param fp1_PSRp=100k
.param C1b_PSRp = {1 / (2 * pi * R1b_PSRp * fz2_PSRp)}
.param R2b_PSRp = {R1b_PSRp/ ((2 * pi * fp2_PSRp * C1b_PSRp
+* R1b_PSRp) - 1)}
.param actual2_PSRp = {R2b_PSRp / (R1b_PSRp + R2b_PSRp)}
.param G2_PSRp = {1/actual2_PSRp}
.param R1b_PSRp=100k
.param fz2_PSRp={fz1_PSRp}
.param fp2_PSRp={fp1_PSRp}
.param gain_PSRn = {pow(10, (-Rej_dc_PSRn/20))}
.param C1a_PSRn = {1 / (2 * pi * R1a_PSRn * fz1_PSRn)}
.param R2a_PSRn = {R1a_PSRn/ ((2 * pi * fp1_PSRn * C1a_PSRn
+* R1a_PSRn) - 1)}
.param actual1_PSRn = {R2a_PSRn / (R1a_PSRn + R2a_PSRn)}
.param G1_PSRn = {gain_PSRn/actual1_PSRn}
.param Rej_dc_PSRn=145
.param R1a_PSRn=50Meg
.param fz1_PSRn=9m
.param fp1_PSRn=100k
.param Mp=113.5 OSp=11m
.param Mn=45 OSn=17m
.param ORp=1k ORn={-ORp}
.param R1_Aol=10k
.param fz_Aol=150k
.param fp_Aol=3Meg
.param C1_Aol = {1 / (2 * pi * R1_Aol * fz_Aol)}
.param R2_Aol = {R1_Aol/ ((2 * pi * fp_Aol * C1_Aol
+* R1_Aol) - 1)}
.param actual_Aol = {R2_Aol / (R1_Aol + R2_Aol)}
.param G_Aol = {1/actual_Aol}
.param Rx_Avo=1k
.param R2x_Avo=10k
.param fzx_Avo=8Meg
.param fpx_Avo=10G
.param Cx_Avo={1/(2*pi*Rx_Avo*fpx_Avo)}
.param R1x_Avo={(fzx_Avo*R2x_Avo)/fpx_Avo}
.ends ADA4098-1
